US08669234B2
Pyrrolidine-1,2-dicarboxylic acid 2-[2-(5-bromo-3a,6a-dihydro-thieno[3,2-b]thiophen-2-yl)-2-oxo-ethyl]ester 1-tert-butyl ester:
Pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-[2-(3a,6a-dihydro-thieno[3,2-b]thiophen-2-yl)-2-oxo-ethyl]ester (595 mg, 1.5 mmol) was dissolved in DMF (7.5 mL) and treated with N-bromosuccinimide (295 mg, 1.65 mmol). The reaction mixture was stirred for 4d at RT then diluted with EtOAc and washed with saturated aqueous NaHCO3 and brine. The organic layer was dried over MgSO4, filtered and concentrated. The crude residue was purified by silica column chromatography (20% to 50% EtOAc/Hex) to afford the title compound (469 mg, 66%).

reactant | Pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-[2-(3a,6a-dihydro-thieno[3,2-b]thiophen-2-yl)-2-oxo-ethyl]ester | 1.5 mmol, 595 mg | S1C2C(C=C1C(COC(=O)C1N(CCC1)C(=O)OC(C)(C)C)=O)SC=C2 | C18H23NO5S2
reactant | N-bromosuccinimide | 1.65 mmol, 295 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 7.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Pyrrolidine-1,2-dicarboxylic acid 2-[2-(5-bromo-3a,6a-dihydro-thieno[3,2-b]thiophen-2-yl)-2-oxo-ethyl]ester 1-tert-butyl ester | 469 mg, 66% | C(C)(C)(C)OC(=O)N1C(CCC1)C(=O)OCC(=O)C1=CC2C(S1)C=C(S2)Br | C18H22BrNO5S2
